US06372742B1
N-(2,6-dichlorobenzyl)-isatin was prepared by the method of Example 1, Step A from isatin and 2,6-dichlorobenzyl chloride.

reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 2,6-dichlorobenzyl chloride | ClC1=C(CCl)C(=CC=C1)Cl | C7H5Cl3
product | N-(2,6-dichlorobenzyl)-isatin | ClC1=C(CN2C(=O)C(=O)C3=CC=CC=C23)C(=CC=C1)Cl | C15H9Cl2NO2
